*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/Comparator_lpe.spi
#else
.include ../../../work/xsch/Comparator.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param vdda = 1.8
.param AVDD = {vdda}
.param PERIOD_CLK = 1u
.param PERIOD_VOLT = 40u
*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS   VSS      0    dc  0
VDD   VDD  VSS  dc  {AVDD}
VCLK  CLK      0    dc  0 pulse (0 {AVDD} 2n {TRF} {TRF} {PERIOD_CLK/2}  {PERIOD_CLK} )
Vin1  Vin1     0    dc  0 pulse (0 {AVDD} 1u {TRF} {TRF} {PERIOD_VOLT/2} {PERIOD_VOLT})
Vin2  Vin2     0    dc  0.9
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

tran 10n 300u 
write
quit

.endc

.end
